US06699910B2
To a solution of potassium hydroxide (1.57 g, 28 mmol) in water (1.5 mL) and absolute ethanol (5 mL) was added 3-{3-[3-(2-ethoxycarbonyl-2-methyl-propyl)-benzoyl]-phenyl}-2,2-dimethyl-propionic acid ethyl ester (4.38 g, 10 mmol) in portions. The mixture was heated to reflux for 3 h and the ethanol was distilled off under reduced pressure on a water-bath. The residual aqueous solution was extracted with chloroform (2×50 mL), then cooled with an ice-bath, and acidified with hydrochloric acid to pH 1. The mixture was extracted with diethyl ether (3×50 mL). The ethereal extracts were dried over sodium sulfate and concentrated in vacuo to give 3-{3-[3-(2-carboxy-2-methylpropyl)benzoyl]-phenyl}-2,2-dimethyl-propanoic acid (3.88 g, 100%) as a solid. Mp.: 46-48° C. 1H NMR (300 MHz, CDCl3): δ (ppm): 7.8-7.2 (m, 8H), 2.83 (s, 4H), 1.25 (s,12H). 13C NMR (75 MHz, CDCl3): δ (ppm): 198.02, 184.0, 139.2, 137.3, 134.5, 129.5, 128.4, 128.3, 127.6, 43.8, 24.7. HRMS (LSIMS, gly): Calcd. for C23H27O5 (MH+): 383.1858, found: 383.1858.

reactant | potassium hydroxide | 28 mmol, 1.57 g | [OH-].[K+]
reactant | 3-{3-[3-(2-ethoxycarbonyl-2-methyl-propyl)-benzoyl]-phenyl}-2,2-dimethyl-propionic acid ethyl ester | 10 mmol, 4.38 g | C(C)OC(C(CC1=CC(=CC=C1)C(C1=CC(=CC=C1)CC(C)(C)C(=O)OCC)=O)(C)C)=O | C27H34O5
solvent | water | 1.5 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-{3-[3-(2-carboxy-2-methylpropyl)benzoyl]-phenyl}-2,2-dimethyl-propanoic acid | 3.88 g, 100% | C(=O)(O)C(CC=1C=C(C(=O)C=2C=C(C=CC2)CC(C(=O)O)(C)C)C=CC1)(C)C | C23H26O5
